US04174405
Into 500 ml of reagent carbon tetrachloride were added 61 g (0.35 mole) of 2-p-tolylthiophene, 41 ml (51 g, 0.35 mole) of benzenesulfenyl chloride and 0.05 g of powdered iron. The reaction mixture was allowed to stand four days at room temperature after which the carbon tetrachloride was distilled off and the 45-gram residue washed with a mixture of 80 ml of ether and 250 ml of petroleum ether. Recrystallization of the washed solid from 300 ml of ethanol gave 28 g (29%) of 2-phenylthio-5-p-tolylthiophene, m.p. 85°-86° C.

reactant | 2-p-tolylthiophene | 0.35 mole, 61 g | C1(=CC=C(C=C1)C=1SC=CC1)C | C11H10S
reactant | benzenesulfenyl chloride | 0.35 mole, 41 ml, 51 g | C1(=CC=CC=C1)SCl | C6H5ClS
catalyst | iron | 0.05 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-phenylthio-5-p-tolylthiophene | 28 g, 29% | C1(=CC=CC=C1)SC=1SC(=CC1)C1=CC=C(C=C1)C | C17H14S2
